US05001235
6-Methyl-4-(1H)-pyridone-3-carboxylic acid
A mixture of 3-(dimethylaminomethylene)-4-oxo-6-methyl-2-pyrone (85.0 g) and ammonium hydroxide (500 ml) is slowly heated to 70° C. with the condenser outlet open. The mixture is heated at 70°-80° C. for 3 hours, concentrated to a volume of about 100 ml and acidified with 3N HCl to pH 5. The product is filtered and washed with water and diethyl ether to give 38.6 g of the title compound. Physical characteristics are as follows:

reactant | 3-(dimethylaminomethylene)-4-oxo-6-methyl-2-pyrone | 85.0 g | CN(C)C=C1C(OC(=CC1=O)C)=O | C9H11NO3
solvent | ammonium hydroxide | 500 ml | [OH-].[NH4+]
product | 6-Methyl-4-(1H)-pyridone-3-carboxylic acid | 38.6 g | CC1=CC(=O)C(=CN1)C(=O)O | C7H7NO3
